US07728025B2
(Step 2) Production of t-butyl 2-(5-ethoxycarbonyl-2-methoxymethoxy-phenyl)-pyrrole-1-carboxylate
21 g of 1-(t-butoxycarbonyl)pyrrole-2-boronic acid, 4.2 g of tetrakistriphenylphosphine palladium and 153 ml of aqueous sodium carbonate solution (2 M) were added in order to a dimethoxyethane (350 ml) solution of 21 g of ethyl 3-bromo-4-methoxymethoxybenzoate, and the reaction liquid was heated overnight under reflux in a nitrogen atmosphere. After cooled, the reaction liquid was diluted with water, extracted with chloroform, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=12/1 to 10/1) to obtain the entitled compound as a white solid.

reactant | 1-(t-butoxycarbonyl)pyrrole-2-boronic acid | 21 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | sodium carbonate | 2 M, 153 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethoxyethane | 350 ml | C(OC)COC | C4H10O2
reactant | ethyl 3-bromo-4-methoxymethoxybenzoate | 21 g | BrC=1C=C(C(=O)OCC)C=CC1OCOC | C11H13BrO4
solvent | water | O | H2O
product | t-butyl 2-(5-ethoxycarbonyl-2-methoxymethoxy-phenyl)-pyrrole-1-carboxylate | C(C)OC(=O)C=1C=CC(=C(C1)C=1N(C=CC1)C(=O)OC(C)(C)C)OCOC | C20H25NO6
